US04927451
Gaseous methylamine was bubbled into absolute ethanol (50 ml.) at 0° C. until 8.5 g. (0.27 mole) was dissolved in the ethanol solvent. Ethyl 4,4,4-trifluorocrotonate (25.0 g., 0.15 mole) in ethanol was added to the methylamine solution at 0° C. The reaction mixture in ethanol was left overnight at 20° C. Thereafter, the solvent was driven off and the residue distilled to produce ethyl 3-(methylamino)-4,4,4-trifluorobutanoate in a yield of 22 g. This product was characterized by a boiling point, at a pressure of 12 mm. Hg., of 62° C. to 64° C.

reactant | Ethyl 4,4,4-trifluorocrotonate | 0.15 mole, 25.0 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3-(methylamino)-4,4,4-trifluorobutanoate | CNC(CC(=O)OCC)C(F)(F)F | C7H12F3NO2
